US09169248B2
A mixture of N-[1-(4-fluorophenyl)pyrazol-4-yl]formamide (0.275 g, 1.33 mmol) and LiAlH4 (1.33 mL, 2.66 mmol, 2 M in THF) in THF (5 mL) was heated at 45° C. for 1 h. The reaction mixture was cooled to room temperature and diluted with 5 mL of concentrated ammonium hydroxide and 80 mL of 20% MeOH/CH2Cl2. The organic layer was separated, dried over anhydrous sodium sulfate, filtered, concentrated in vacuo, and purified by flash chromatography (SiO2, 0-100% EtOAc/CH2Cl2 gradient elution) to give 1-(4-fluorophenyl)-N-methylpyrazol-4-amine as an oil (0.23 g, 90%).

reactant | N-[1-(4-fluorophenyl)pyrazol-4-yl]formamide | 1.33 mmol, 0.275 g | FC1=CC=C(C=C1)N1N=CC(=C1)NC=O | C10H8FN3O
reactant | LiAlH4 | 2.66 mmol, 2 M, 1.33 mL | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ammonium hydroxide | 5 mL | [OH-].[NH4+]
solvent | MeOH CH2Cl2 | 80 mL | CO.C(Cl)Cl
product | 1-(4-fluorophenyl)-N-methylpyrazol-4-amine | 0.23 g, 90% | FC1=CC=C(C=C1)N1N=CC(=C1)NC | C10H10FN3
